US07691882B2
3-Ethynyl-5-fluoro-pyridin-2-ylamine
To a mixture of 5-fluoro-3-iodo-pyridin-2-ylamine (751 mg, 3.16 mmol) described in Manufacturing Example 173-1-1, trimethylsilylacetylene (874 μL, 6.32 mmol), copper (I) iodide (60.2 mg, 0.32 mmol), N,N-diisopropylethylamine (1.07 mL, 6.32 mmol), and N-methylpyrrolidinone (15 mL) was added tetrakis(triphenylphosphine)palladium (0) (183 mg, 0.16 mmol), which was stirred for 3 hours under nitrogen atmosphere at 70° C. This reaction solution was cooled to room temperature, and then partitioned into ethyl acetate and water. The organic layer was separated, washed with water and saturated aqueous sodium chloride, dried over anhydrous magnesium sulfate, and filtered. The filtrate was concentrated under a reduced pressure, and the residue thus obtained was purified by NH silica gel column chromatography and then silica gel column chromatography (heptane:ethyl acetate=1:1) to obtain the title compound (129 mg, 30%).

reactant | 5-fluoro-3-iodo-pyridin-2-ylamine | 3.16 mmol, 751 mg | FC=1C=C(C(=NC1)N)I | C5H4FIN2
reactant | trimethylsilylacetylene | 6.32 mmol, 874 μL | C[Si](C)(C)C#C | C5H10Si
reactant | N,N-diisopropylethylamine | 6.32 mmol, 1.07 mL | C(C)(C)N(C(C)C)CC | C8H19N
catalyst | copper (I) iodide | 0.32 mmol, 60.2 mg | [Cu]I
catalyst | tetrakis(triphenylphosphine)palladium | 0.16 mmol, 183 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | N-methylpyrrolidinone | 15 mL | CN1C(CCC1)=O | C5H9NO
product | 3-Ethynyl-5-fluoro-pyridin-2-ylamine | 129 mg, 30% | C(#C)C=1C(=NC=C(C1)F)N | C7H5FN2
